US07625908B2
N-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-2-methoxy-N-methylacetamide
The procedure described in Example 1 was repeated using methoxyacetic acid and N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[(1S)-1-methyl-2-(methylamino) ethoxy]quinazolin-4-amine (obtained as described for the R-antipode in Example 2.3, preparation of starting materials) to give the title compound in 39% yield; NMR spectrum (DMSO-d6) 1.38 (d, 3H), 2.99 (s, 3H), 3.16 (s, 3H), 3.27 (1H obscured by H2O), 4.03 (s, 2H), 4.23 (m, 1H), 5.11 (m, 1H), 5.29 (s, 2H), 7.24 (m, 2H), 7.30 (d, 1H), 7.35 (m, 1H), 7.57 (d, 1H), 7.65, (dd, 1H), 7.71 (t, 1H), 7.86 (dt, 1H), 8.12 (d, 1H), 8.44 (s, 1H), 8.58 (d, 1H), 9.90 (s, 1H); Mass Spectrum MH+ 522.

reactant | methoxyacetic acid | COCC(=O)O | C3H6O3
reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[(1S)-1-methyl-2-(methylamino) ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CNC)C | C24H24ClN5O2
product | N-{(2S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]propyl}-2-methoxy-N-methylacetamide | 39% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)O[C@H](CN(C(COC)=O)C)C | C27H28ClN5O4
